US09315521B2
2-{[(3-chloro-2H-indazol-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
3-chloro-2-(chloromethyl)-2H-indazole hydrochloride (285 mg, 1.0 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (142 mg, 1.0 mmol), and silver carbonate (550 mg, 2.0 mmol) were mixed in acetone (20 mL). The mixture was stirred at room temperature overnight. The solid was filtered. The solution was evaporated, and the crude product was purified by column chromatography to provide the titled final product (15 mg, 5% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.34 (s, 3H), 6.05 (s, 1H), 6.22 (s, 2H), 7.25 (t, 1H), 7.48 (t, 1H), 7.67 (d, 1H), 7.74 (s, 1H); M+307.

reactant | 3-chloro-2-(chloromethyl)-2H-indazole hydrochloride | 1.0 mmol, 285 mg | Cl.ClC=1N(N=C2C=CC=CC12)CCl
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 1.0 mmol, 142 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
solvent | acetone | 20 mL | CC(=O)C | C3H6O
catalyst | silver carbonate | 2.0 mmol, 550 mg | C([O-])([O-])=O.[Ag+2]
product | 2-{[(3-chloro-2H-indazol-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 15 mg, 5% yield | ClC=1N(N=C2C=CC=CC12)CSC1=NC(=CC(=N1)O)C | C13H11ClN4OS
